US08492378B2
4-[[[5-(2,3-dihydro-1-benzofuran-5-yl)-1,3,4-oxadiazol-2-yl]thio]methyl]benzoic acid
In the same manner as in Example 1 and using 5-(2,3-dihydro-1-benzofuran-5-yl)-1,3,4-oxadiazole-2-thiol instead of 5-(benzothiazol-6-yl)-1,3,4-oxadiazole-2-thiol and 4-(chloromethyl)benzoic acid instead of 3-(trifluoromethyl)benzyl chloride, the title compound (yield 100%) was obtained as colorless crystals.

reactant | 5-(2,3-dihydro-1-benzofuran-5-yl)-1,3,4-oxadiazole-2-thiol | O1CCC2=C1C=CC(=C2)C2=NN=C(O2)S | C10H8N2O2S
reactant | 4-(chloromethyl)benzoic acid | ClCC1=CC=C(C(=O)O)C=C1 | C8H7ClO2
product | 4-[[[5-(2,3-dihydro-1-benzofuran-5-yl)-1,3,4-oxadiazol-2-yl]thio]methyl]benzoic acid | yield 100% | O1CCC2=C1C=CC(=C2)C2=NN=C(O2)SCC2=CC=C(C(=O)O)C=C2 | C18H14N2O4S
